US08097613B2
g) 4-(Methanesulfonylamino-methyl)-2-nitro-thiophene-3-sulfonic Acid Amide
Hydrogen chloride (20 mL of a 4.0 M solution in 1,4-dioxane) was added to a solution of Boc-4-(methanesulfonylamino-methyl)-2-nitro-thiophene-3-sulfonic acid amide (0.600 g, 1.44 mmol) in 1,4-dioxane (10 mL) at 25° C. The mixture was stirred at 25° C. for 18 h, and then was partitioned between half-saturated aqueous sodium bicarbonate solution (150 mL) and ethyl acetate (2×150 mL). The combined organic layers were dried over sodium sulfate, filtered and were concentrated in vacuo. Purification of the residue by flash column chromatography (Teledyne Isco RediSep column; 60-100% ethyl acetate in hexanes) provided a yellow oil. This material was triturated with dichloromethane to afford a yellow solid that was collected by filtration to afford the desired product, 4-(methanesulfonylamino-methyl)-2-nitro-thiophene-3-sulfonic acid amide (0.400 g, 1.27 mmol, 88%). 1H NMR (400 MHz, DMSO-d6) δ: 2.96 (3H, s), 3.31 (2H, s), 4.35 (1H, d, J=5.4 Hz), 7.61 (1H, t, J=6.2 Hz), 7.85 (1H, s), 7.87 (2H, bs).

reactant | Hydrogen chloride | Cl | ClH
reactant | Boc-4-(methanesulfonylamino-methyl)-2-nitro-thiophene-3-sulfonic acid amide | 1.44 mmol, 0.600 g | C(=O)(OC(C)(C)C)C1=C(C(=C(S1)[N+](=O)[O-])S(=O)(=O)N)CNS(=O)(=O)C | C11H17N3O8S3
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(methanesulfonylamino-methyl)-2-nitro-thiophene-3-sulfonic acid amide | 1.27 mmol, 0.400 g, 88% | CS(=O)(=O)NCC=1C(=C(SC1)[N+](=O)[O-])S(=O)(=O)N | C6H9N3O6S3
